US04990526
Step A: Preparation of Methyl 4-((3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl)thio)-beta-methyl-gamma-hydroxybenzenebutanoate
To the 4-((3-(4-acetyl-3-hydroxy-2-propylphenoxy) propyl)thio)-beta-methyl-gamma-hydroxybenzene butanoic acid γlactone (8.84 g, 20 mM) described in EP 104,885 (Apr. 4, 1984) was added a mixture of 2N NaOH (12 ml, 24 mM), THF (50 ml) and MeOH (20 ml) and the mixture was stirred 12 hours under N2. The reaction mixture was evaporated to dryness and dissolved in water (75 ml) and cooled to 0° C.; 1N HCl was added drop wise until the PH was lower than 6 and the organic compound was extracted into EtOAc (200 ml). The organic layer was washed with brine (100 ml) and dried with Na2SO4. The solvent was removed in vacuo with no heating and the residue was dissolved in Et2O (100 ml) and cooled to 0° C. Diazomethane (in Et2O) was added in excess and the reaction mixture was evaporated to dryness with no heat and dried under high vacuum to yield the title compound as an oil slightly contaminated (by less than 10 percent of the starting lactone).

reactant | 4-((3-(4-acetyl-3-hydroxy-2-propylphenoxy) propyl)thio)-beta-methyl-gamma-hydroxybenzene butanoic acid | C(C)(=O)C1=C(C(=C(OCCCSC2=CC=C(C=C2)C(C(CC(=O)O)C)O)C=C1)CCC)O | C25H32O6S
reactant | NaOH | 2N, 12 ml | [OH-].[Na+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | Methyl 4-((3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl)thio)-beta-methyl-gamma-hydroxybenzenebutanoate | C(C)(=O)C1=C(C(=C(OCCCSC2=CC=C(C=C2)C(C(CC(=O)OC)C)O)C=C1)CCC)O | C26H34O6S
